US20010044539A1
6,7-dihydro-5-pentyl-3H-pyrrolo[1,2-a]imidazole-2,3 (5H)-dione
Ex-31) The product of Example 31d is treated with oxalyl chloride and diazabicyclooctane in acetonitrile to give the title compound, which is purified by partition between water and EtOAc, and passage over a silica column.

reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | diazabicyclooctane | N1(NCCCCCC1)C1CCCCCCC1 | C14H28N2
reactant | acetonitrile | C(C)#N | C2H3N
product | 6,7-dihydro-5-pentyl-3H-pyrrolo[1,2-a]imidazole-2,3 (5H)-dione | C(CCCC)C1CCC=2N1C(C(N2)=O)=O | C11H16N2O2
